US05633248
3,4-Dihydro-6-methoxy-1'-(5-cyano-4,4-diphenylpentyl)spiro[naphthalene-2(1H),2'-piperidine]hydrochloride
3,3-Diphenyl-6-iodohexanenitrile (1.5 g), 3,4-dihydro-6-methoxyspiro[naphthalene-2(1H),2'-piperidine]hydrochloride (1.39 g), triethylamine (0.53 g), and potassium carbonate (0.72 g) were stirred in acetonitrile (25 ml) at 70° C. overnight. The insoluble matter in the reaction mixture was filtered off and the filtrate was concentrated to dryness. The group was purified by silica gel column chromatography to provide the hydrochloride salt of the title compound (0.7 g) as light-yellow powder.

reactant | 3,3-Diphenyl-6-iodohexanenitrile | 1.5 g | C1(=CC=CC=C1)C(CC#N)(CCCI)C1=CC=CC=C1 | C18H18IN
reactant | 3,4-dihydro-6-methoxyspiro[naphthalene-2(1H),2'-piperidine]hydrochloride | 1.39 g | Cl.COC=1C=C2CCC3(NCCCC3)CC2=CC1
reactant | triethylamine | 0.53 g | C(C)N(CC)CC | C6H15N
reactant | potassium carbonate | 0.72 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | 3,4-Dihydro-6-methoxy-1'-(5-cyano-4,4-diphenylpentyl)spiro[naphthalene-2(1H),2'-piperidine]hydrochloride | 0.7 g | Cl.COC=1C=C2CCC3(N(CCCC3)CCCC(CC#N)(C3=CC=CC=C3)C3=CC=CC=C3)CC2=CC1 | InChI=1S/C33H38N2O.ClH/c1-36-31-16-15-28-26-32(20-17-27(28)25-31)18-8-9-23-35(32)24-10-19-33(21-22-34,29-11-4-2-5-12-29)30-13-6-3-7-14-30;/h2-7,11-16,25H,8-10,17-21,23-24,26H2,1H3;1H
